US04812164
using 1-(4-bromo-2-fluoro-5-isopropoxyphenyl)-2-chloro-4-trifluoromethyl-6(1H)-pyrimidinone and sodium methylate in methanol there is obtained 1-(4-bromo-2-fluoro-5-isopropoxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 137° C.;

reactant | 1-(4-bromo-2-fluoro-5-isopropoxyphenyl)-2-chloro-4-trifluoromethyl-6(1H)-pyrimidinone | BrC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(F)(F)F)Cl)F | C14H10BrClF4N2O2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(4-bromo-2-fluoro-5-isopropoxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | BrC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C15H13BrF4N2O3
